US04535183
4-Hydroxy-2-methylbenzofuran (5.18 g, 0.035 M), 4-bromomethylbenzonitrile (6.86 g, 0.035 M), anhydrous potassium carbonate (5.2 g), sodium iodide (0.21 g) and 95% ethanol (50 ml) were reacted together in an analogous manner to that described in Example 5(A) to give 4-(2-methyl-4-benzofuranyloxymethyl)benzonitrile, m.p. 84°-85° C. (Found: C, 77.57; H, 5.02; N, 5.22. C17H13NO2 requires C, 77.55; H, 4.98; N, 5.32%).

reactant | 4-Hydroxy-2-methylbenzofuran | 0.035 M, 5.18 g | OC1=CC=CC2=C1C=C(O2)C | C9H8O2
reactant | 4-bromomethylbenzonitrile | 0.035 M, 6.86 g | BrCC1=CC=C(C#N)C=C1 | C8H6BrN
reactant | potassium carbonate | 5.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.21 g | [I-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 4-(2-methyl-4-benzofuranyloxymethyl)benzonitrile | CC=1OC2=C(C1)C(=CC=C2)OCC2=CC=C(C#N)C=C2 | C17H13NO2
